US06852726B2
Dimethylformamide (20 ml) was cooled under a nitrogen atmosphere to −40° C. in a dry ice-acetonitrile bath. Oxalyl chloride (2 ml) was added dropwise at such a rate as to maintain the temperature below −30° C. Upon completion of the addition, the suspension was allowed to rise to room temperature. After about an hour, 2-aminobenzyl-N,N-dimethylsulfonamide (0.630 g) dissolved in DMF (5 ml) was added with stirring and the reaction mixture was stirred at room temperature for 4 h. The solution was partitioned between 1% sodium hydroxide solution and ethyl acetate. The organic layer was dried over magnesium sulfate, filtered and evaporated to dryness to afford C-[2-(dimethylamino-methyleneamino)-phenyl]-N,N-dimethyl-methanesulfonamide as an oil which was used directly in the next step.

reactant | Oxalyl chloride | 2 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2-aminobenzyl-N,N-dimethylsulfonamide | 0.630 g | NC1=C(CS(=O)(=O)N(C)C)C=CC=C1 | C9H14N2O2S
reactant | DMF | 5 ml | CN(C)C=O | C3H7NO
reactant | Dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | C-[2-(dimethylamino-methyleneamino)-phenyl]-N,N-dimethyl-methanesulfonamide | CN(C)C=NC1=C(C=CC=C1)CS(=O)(=O)N(C)C | C12H19N3O2S
